### PR TITLE
[Merged by Bors] - feat(Analysis): lower bound for `log (1 + x)`

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
Seems that existing results in mathlib uses `log_one_add` i.e. `log (1 + x)`. Would you like to swap the order of your result?

**Comment by javra** [comment]
Yes, maybe it's best to stick to the conventions used elsewhere (though `x + 1` looks a bit more natural to me, constant terms of polynomials generally being written on the right)

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 1]
```diff
@@ -319,4 +319,18 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
     linarith
   · field_simp
 
+/-- Expansion of `log (a + 1)` as a series in powers of `a / (a + 2)`. -/
+theorem hasSum_log_one_add {a : ℝ} (h : 0 < a) :
+    HasSum (fun k : ℕ => (2 : ℝ) * (1 / (2 * k + 1)) * (a / (a + 2)) ^ (2 * k + 1))
+      (log (1 + a)) := by
+  have key := Real.hasSum_log_one_add_inv (inv_pos.mpr h)
```
Comment (acmepjz) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:326]: I think this result is still true when `a = 0` (in this case the infinite sum has only one term). Not sure what if `-1 < a`.

Also, maybe the `Real` in  `Real.hasSum_log_one_add_inv` can be omitted? (Same as the result below.)

Comment (acmepjz) [reply Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean]: You can use `by_cases ha0 : a = 0` to give an alternative (possibly very simple) proof in `a = 0` case. I'm not sure the case `-1 < a < 0`, clearly it requires another proof...

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 2]
```diff
@@ -319,4 +319,25 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
     linarith
   · field_simp
 
+/-- Expansion of `log (a + 1)` as a series in powers of `a / (a + 2)`. -/
```
Comment (acmepjz) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:322]:
```suggestion
/-- Expansion of `log (1 + a)` as a series in powers of `a / (a + 2)`. -/
```
There is another mistake of docstring in the existing part of this file, a few lines above I think, where `hasSum_pow_div_log_of_abs_lt_1` should be `hasSum_pow_div_log_of_abs_lt_one`. If you like, you can fix it as well.

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 3]
```diff
@@ -319,4 +319,25 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
...
+theorem hasSum_log_one_add {a : ℝ} (h : 0 ≤ a) :
+    HasSum (fun k : ℕ => (2 : ℝ) * (1 / (2 * k + 1)) * (a / (a + 2)) ^ (2 * k + 1))
+      (log (1 + a)) := by
```
Comment (tb65536) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:325]: Now the docstring doesn't match the theorem (`a + 1` vs `1 + a`).

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 4]
```diff
@@ -319,4 +319,25 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
...
 
+/-- Expansion of `log (1 + a)` as a series in powers of `a / (a + 2)`. -/
+theorem hasSum_log_one_add {a : ℝ} (h : 0 ≤ a) :
+    HasSum (fun k : ℕ => (2 : ℝ) * (1 / (2 * k + 1)) * (a / (a + 2)) ^ (2 * k + 1))
+      (log (1 + a)) := by
+  by_cases ha0 : a = 0
+  · simp [ha0, hasSum_zero]
+  · have key := hasSum_log_one_add_inv (inv_pos.mpr (lt_of_le_of_ne h (Ne.symm ha0)))
+    rw [inv_inv, add_comm] at key
+    exact key.congr_fun fun k ↦ by field_simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:330]: There's nothing fundamentally wrong with these proofs, I just wanted to showcase a few tactic features in case you weren't familiar with them:

1. you can use `rfl` in `obtain` to substitute equalities automatically.
2. you can use `convert` to provide a term which almost matches the goal, and you will be left with differences. You can use `using n` to limit the depth of the match to `n` (so it isn't overly eager).

```suggestion
  obtain (rfl | ha0) := eq_or_ne a 0
  · simp [hasSum_zero]
  · convert hasSum_log_one_add_inv (inv_pos.mpr (lt_of_le_of_ne h ha0.symm)) using 4
    all_goals field_simp [add_comm]
```

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 5]
```diff
@@ -319,4 +319,25 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
...
+
+lemma le_log_one_add_of_nonneg {x : ℝ} (hx : 0 ≤ x) : 2 * x / (x + 2) ≤ log (1 + x) := by
+  have key := le_hasSum (hasSum_log_one_add hx) 0 (by intros; positivity)
+  field_simp at key
+  exact key
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:335]: Likewise
```suggestion
  convert le_hasSum (hasSum_log_one_add hx) 0 (by intros; positivity) using 1
  field_simp
```

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 6]
```diff
@@ -319,4 +319,25 @@ theorem hasSum_log_one_add_inv {a : ℝ} (h : 0 < a) :
...
+
+lemma lt_log_one_add_of_pos {x : ℝ} (hx : 0 < x) : 2 * x / (x + 2) < log (1 + x) := by
+  have key := lt_hasSum (hasSum_log_one_add (le_of_lt hx)) 0 (by intros; positivity)
+    1 (by positivity) (by positivity)
+  field_simp at key
+  exact key
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:341]:
```suggestion
  convert lt_hasSum (hasSum_log_one_add hx.le) 0 (by intros; positivity)
    1 (by positivity) (by positivity) using 1
  field_simp
```

**Review by j-loreaux — COMMENTED** [review]
Thanks for this! Please wait for CI before merging.

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean (hunk 4 above)
Comment (javra) [reply Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:330]: Thanks!

**Comment by j-loreaux** [comment]
oops, I meant to delegate this before.

bors merge
